US09169254B2
Diethyl carbonate (18 ml) and a 28% solution of sodium methoxide in methanol (1.1 ml, 5.70 mmol) were added to 2-(4-bromo-3-methyl-phenylamino)-ethanol (1.21 g, 5.27 mmol), and the mixture was heated with stirring at 110° C. for 15 hours. Further, methanol (16 ml) was added to the reaction solution, and the mixture was heated with stirring at 110° C. for one hour. An aqueous ammonium chloride solution was added to the reaction mixture, followed by extraction with ethyl acetate. The organic phase was sequentially washed with water and saturated brine and concentrated under reduced pressure. The resulting residue was triturated with hexane to give 3-(4-bromo-3-methyl-phenyl)-oxazolidin-2-one (989 mg, 73%).

reactant | Diethyl carbonate | 18 ml | C(OCC)(OCC)=O | C5H10O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-(4-bromo-3-methyl-phenylamino)-ethanol | 5.27 mmol, 1.21 g | BrC1=C(C=C(C=C1)NCCO)C | C9H12BrNO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 16 ml | CO | CH4O
solvent | methanol | 5.70 mmol, 1.1 ml | CO | CH4O
product | 3-(4-bromo-3-methyl-phenyl)-oxazolidin-2-one | 989 mg, 73% | BrC1=C(C=C(C=C1)N1C(OCC1)=O)C | C10H10BrNO2
